US08039469B2
Preparation of Methyl 2-(1-(4-(8-oxa-3-azabicyclo[3.2.1]octan-3-yl)-6-(4-(3-pyridin-4-ylureido)phenyl)-1,3,5-triazin-2-yl)piperidin-4-ylamino)acetate
Starting from 1-(4-(4-(8-oxa-3-azabicyclo[3.2.1]octan-3-yl)-6-(4-oxopiperidin-1-yl)-1,3,5-triazin-2-yl)phenyl)-3-(pyridin-4-yl)urea.TFA (50 mg) and glycine methyl ester hydrochloride (20 mg) and triethylamine (10 drops) and following the procedure as outlined in example 118 the title compound was isolated as its di-TFA salt after HPLC purification; MS (ES+) 574.8 (M+H)+.

reactant | 1-(4-(4-(8-oxa-3-azabicyclo[3.2.1]octan-3-yl)-6-(4-oxopiperidin-1-yl)-1,3,5-triazin-2-yl)phenyl)-3-(pyridin-4-yl)urea | C12CN(CC(CC1)O2)C2=NC(=NC(=N2)N2CCC(CC2)=O)C2=CC=C(C=C2)NC(=O)NC2=CC=NC=C2 | C26H28N8O3
reactant | TFA | 50 mg | C(=O)(C(F)(F)F)O | C2HF3O2
reactant | glycine methyl ester hydrochloride | 20 mg | Cl.COC(CN)=O
catalyst | triethylamine | 10 drops | C(C)N(CC)CC | C6H15N
product | Methyl 2-(1-(4-(8-oxa-3-azabicyclo[3.2.1]octan-3-yl)-6-(4-(3-pyridin-4-ylureido)phenyl)-1,3,5-triazin-2-yl)piperidin-4-ylamino)acetate | C12CN(CC(CC1)O2)C2=NC(=NC(=N2)C2=CC=C(C=C2)NC(=O)NC2=CC=NC=C2)N2CCC(CC2)NCC(=O)OC | C29H35N9O4
